US05149825
Preparation of 2-azabicyclo[2.2.1]hept-5-ene-2-acetonitrile
A solution of aminoacetonitrile hydrochloride (18.5 g, 0.20 mol) in water at 5° C. is treated with 37% formalin (23.0 g, 0.28 mol formaldehyde) followed by cyclopentadiene (26.0 g, 0.4 mol), stirred at 5°-10° C. for 30 minutes and diluted with methylene chloride. The phases are separated, the aqueous phase is extracted with methylene chloride and basified to pH >12 with 10% NaOH. The aqueous basic phase is extracted with methylene chloride. The methylene chloride extract of the basic aqueous phase is concentrated in vacuo to give the title product (N-cyanomethylazanorbornene), 22.7 g, which can be distilled at 68°-70° C./0.55 torr. The compound is identified by NMR and mass spectral analyses.

reactant | aminoacetonitrile hydrochloride | 0.20 mol, 18.5 g | Cl.NCC#N
reactant | formalin | 0.28 mol, 23.0 g | C=O | CH2O
reactant | cyclopentadiene | 0.4 mol, 26.0 g | C1=CC=CC1 | C5H6
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-azabicyclo[2.2.1]hept-5-ene-2-acetonitrile | C12N(CC(C=C1)C2)CC#N | C8H10N2
